2111-12-02 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Failed NIF test.  Sedated o/n with likely extubation trial in AM
   Given 20 Lasix and 500mL bolus x2 for UOP~20/hour
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-2**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-2**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-2**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 74 (74 - 95) bpm
   BP: 105/62(72) {94/57(67) - 158/100(114)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 59.7 kg (admission): 59.7 kg
             Total In:
                                                                  1,319 mL
                                                                  1,196 mL
   PO:
             TF:
   IVF:
                                                                     69 mL
                                                                  1,136 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    130 mL
   Urine:
                                                                  1,070 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    249 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 366 (108 - 366) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 146
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.50/51/124/36/14
   Ve: 5.5 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Gen: awake, alert
   HEENT ETT/OGT in place, PERRLA
   Pulm
   CV distant heart sounds, rrr, no g/m/r appreciated
   Abd soft, nt, nd, nabs, no HSM
   Extrem no edema, areas of skin removal for skin graft on R thigh
   Neuro able to write answers to questions appropriately
   Labs / Radiology
   236 K/uL
   10.1 g/dL
   103 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.2 mEq/L
   15 mg/dL
   95 mEq/L
   138 mEq/L
   29.0 %
   6.3 K/uL
        [image002.jpg]
   UCx, BCx, Sputum Cx pending
                             [**2111-12-1**]  01:37 PM
                             [**2111-12-1**]  03:23 PM
                             [**2111-12-1**]  03:37 PM
                             [**2111-12-2**]  02:56 AM
                             [**2111-12-2**]  02:59 AM
                             [**2111-12-2**]  06:17 AM
   WBC
   7.3
   6.3
   Hct
   30.0
   29.0
   Plt
   219
   236
   Cr
   0.3
   0.5
   TCO2
   40
   42
   42
   41
   Glucose
   155
   103
   Other labs: PT / PTT / INR:13.5/30.0/1.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A+P 81 F w/ pmh of dermatomyositis (on steroids), HTN, AS (unknown
   valve area), presents w/ hypoxia, hypercarbia, found to have bilateral
   LL PNA.
   .
   # Respiratory failure: Likely from bilateral LL PNA seen on CT scan.
   Given Vanc/Ceftriaxone/Levofloxacin in the ED.  DDX multifocal PNA from
   bacterial infection (although had only a low-grade fever and no
   elevation in WBC count w/ very little L-shift) +/- aspiration PNA
   (although no history of this from pt or daughter).  She could also have
   chronic hyperkapnea from respiratory muscle weakness from
   dermatomyositis vs steroid myopathy.
   - treat w/ vanc/levofloxacin for now
   - f/u sputum and blood cx
   - keep intubated for now but will try to extubate when able
   - add coverage for pseudomonas if gm - in sputum
   - Obtain a NIF
   .
   # Dermatomyositis: received decadron 10 mg IV X 1 in ed but does not
   appear to be critially ill so will continue home dose of prednisone at
   15 mg daily for now
   - stress-dose steroids of becomes septic
   .
   # Diastolic CHF: appears euvolemic, continue lisinopril, metoprolol
   .
   # HTN: will continue 1/2 dose of usual meds in case of evolving sepsis
   - amlodipine, metoprolol, lisinopril
   .
   # Aortic stenosis: unknown valve area, will attempt to get records from
   [**Hospital1 1031**]
   .
   # Anemia: Normocytic. Unknown baseline.
   - trend for now
   .
   # Hyperglycemia: per her daughter, no diagnosis of DM2.  Likely from
   steroids.
   - [**Hospital1 **]
   .
   # Osteopenia: continue calcium/vit D
   .
   # Chronic pain: continue oxycontin, lidoderm patch, nortriptyline
   .
   FEN: Start TF if not able to extubate, replete lytes prn
   Access: PIVs
   PPX: sc heparin, bowel regimen prn
   Dispo: ICU for now
   Code: Was DNR/DNI but her daughter reversed this in the [**Name (NI) 73**]; will need
   to discuss once extubated
   Communication: [**Name (NI) **] [**Name (NI) 4853**] (son) [**Telephone/Fax (1) 4855**]: Daughter [**Name (NI) **] (805)
   4542-0171; home ([**Telephone/Fax (1) 4856**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-12-1**] 04:00 PM
   22 Gauge - [**2111-12-2**] 04:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-03 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Rheum consult placed for weakness and dermatomyositis
   - Ortho consult for left hip dislocation, however patient refused
   x-rays since she had recent x-rays done at her PCP who is faxing them
   over tomorrow
   - BG down to 27 on one hand, 50 repeat on other hand, juice
   administered by NGT
   - Pt tachypneic after talking to daughter for prolonged period of time,
   increased PS to 10 and PEEP to 8
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-2**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-3**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 80 (61 - 87) bpm
   BP: 136/72(87) {99/54(66) - 167/109(124)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 59.7 kg (admission): 59.7 kg
             Total In:
                                                                  2,256 mL
                                                                    268 mL
   PO:
             TF:
                                                                     64 mL
                                                                     81 mL
   IVF:
                                                                  1,492 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    135 mL
   Urine:
                                                                  1,240 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,016 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (210 - 300) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.49/48/126/36/12
   Ve: 5.2 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Gen: Intubated/sedated, communicating over ET tube
   HEENT ETT/OGT in place, PERRL
   Pulm: decreased breath sounds
   CV distant heart sounds, rrr, no g/m/r appreciated
   Abd soft, nt, nd, nabs, no HSM
   Extrem no edema, areas of skin removal for skin graft on R thigh, ttp
   over lower extremities globally, L hip externally rotated
   Neuro: Alert
   Labs / Radiology
   234 K/uL
   10.3 g/dL
   88 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.5 mEq/L
   15 mg/dL
   99 mEq/L
   141 mEq/L
   30.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2111-12-1**]  01:37 PM
                             [**2111-12-1**]  03:23 PM
                             [**2111-12-1**]  03:37 PM
                             [**2111-12-2**]  02:56 AM
                             [**2111-12-2**]  02:59 AM
                             [**2111-12-2**]  06:17 AM
                             [**2111-12-3**]  02:46 AM
                             [**2111-12-3**]  04:25 AM
   WBC
   7.3
   6.3
   5.8
   Hct
   30.0
   29.0
   30.3
   Plt
   [**Telephone/Fax (3) 4884**]
   Cr
   0.3
   0.5
   0.5
   TCO2
   40
   42
   42
   41
   38
   Glucose
   155
   103
   88
   Other labs: PT / PTT / INR:13.5/30.0/1.2, CK / CKMB / Troponin-T:53//,
   Lactic Acid:0.7 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A+P 81 F w/ pmh of dermatomyositis (on steroids), HTN, AS (unknown
   valve area), presents w/ hypoxia, hypercarbic
   .
   # Respiratory failure: Multifocal consolidation show on CT scan. Sputum
   cultures are sterile with polys. No clear bacterial source. She could
   also have chronic hypercapnea from respiratory muscle weakness from
   dermatomyositis vs steroid myopathy.
   -Will check NIF -11
   -Will attempt to extubate today, the probability of reintubation is
   high
   -Unable to get full bronch yesterday, mini BAL still pending as are
   blood Cx
   -Rapid Viral Antigen test with too few cells to interpret, will need
   more time for growth
   # Dermatomyositis: received decadron 10 mg IV X 1 in ed. Appears to
   have generalized weakness.
   -          Rheumatology recommends checking aldolase and continuing
   steroids for now.  Appeciate recommendations
   -          Will also get neuro musculoskeletal consult to evaluate for
   causes of weakness.
   -          Obtain PCP/[**Hospital1 1031**] records-request faxed.
   # Diastolic CHF: Likely dry, gentle hydration titrated to UOP.
   -continue lisinopril, metoprolol
   -Will check ECHO
   .
   # HTN: will continue 1/2 dose of usual meds in case of evolving sepsis
   - amlodipine, metoprolol, lisinopril
   # Aortic stenosis: unknown valve area, will attempt to get records from
   [**Hospital1 1031**]
   -ECHO will determine extent
   # Anemia: Normocytic. Unknown baseline.
   - trend for now
   # Hyperglycemia: per her daughter, no diagnosis of DM2.  Likely from
   steroids.
   -          [**Hospital1 **]
   -          HgbA1c
   # Osteopenia: continue calcium/vit D
   # Chronic pain: continue oxycontin, lidoderm patch, nortriptyline
   FEN: Start TF if not able to extubate, replete lytes prn
   Access: PIVs, hold PICC unless IV Abx need becomes clear
   PPX: sc heparin, bowel regimen prn
   Dispo: ICU for now
   Code: DNR only
   Communication: [**Name (NI) **] [**Name (NI) 4853**] (son) [**Telephone/Fax (1) 4855**]: Daughter [**Name (NI) **] (805)
   4542-0171; home ([**Telephone/Fax (1) 4856**].
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-12-1**] 04:00 PM
   22 Gauge - [**2111-12-2**] 04:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-04 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2111-12-3**] 02:00 PM
   -Extubated at 1400
   -Rheum Rec.-Adolase
   -Neuromuscular cs, continue prednisone Recs pending
   -ECHO: LVH, mild AS, mild MR(may be underestimated), left ventricular
   systolic function is normal (LVEF 70-80%), mild pulmonary artery
   systolic hypertension
   -[**Hospital1 1031**] fax sent-awaiting records
   -Started clears
   Patient denies any pain and is interested in going home today.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-3**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 103 (69 - 120) bpm
   BP: 151/66(86) {115/64(81) - 168/100(113)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.7 kg (admission): 59.7 kg
             Total In:
                                                                    925 mL
                                                                    326 mL
   PO:
                                                                    200 mL
             TF:
                                                                     81 mL
   IVF:
                                                                    504 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  3,465 mL
                                                                    900 mL
   Urine:
                                                                  3,465 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,540 mL
                                                                   -574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 138 (138 - 222) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/57/54/36/11
   Ve: 6.2 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Gen: Extubated, awake and comfortable appearing
   HEENT: PERRL
   Pulm: decreased breath sounds at bases bilaterally
   CV: distant heart sounds, rrr, no murmurs appreciated
   Abd soft, nt, nd, nabs, no HSM
   Extrem no edema, areas of skin removal for skin graft on R thigh, ttp
   over lower extremities globally, L hip externally rotated
   Neuro: Alert
   Labs / Radiology
   280 K/uL
   12.0 g/dL
   83 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   98 mEq/L
   146 mEq/L
   35.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2111-12-1**]  03:23 PM
                             [**2111-12-1**]  03:37 PM
                             [**2111-12-2**]  02:56 AM
                             [**2111-12-2**]  02:59 AM
                             [**2111-12-2**]  06:17 AM
                             [**2111-12-3**]  02:46 AM
                             [**2111-12-3**]  04:25 AM
                             [**2111-12-3**]  05:04 PM
                             [**2111-12-3**]  08:34 PM
                             [**2111-12-3**]  11:23 PM
   WBC
   7.3
   6.3
   5.8
   6.4
   Hct
   30.0
   29.0
   30.3
   35.6
   Plt
   [**Telephone/Fax (3) 4914**]80
   Cr
   0.3
   0.5
   0.5
   0.4
   0.4
   TCO2
   42
   42
   41
   38
   40
   Glucose
   155
   103
   88
   102
   83
   Other labs: PT / PTT / INR:13.5/30.0/1.2, CK / CKMB / Troponin-T:53//,
   Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL,
   HgbA1c 6.4%
   Imaging:
   Echo [**12-3**]: Mild symmetric left ventricular hypertrophy. (LVEF 70-80%).
   Tissue Doppler imaging suggests an increased left ventricular filling
   pressure (PCWP>18mmHg). Mild aortic valve stenosis. Mild (1+) mitral
   regurgitation The left ventricular inflow pattern suggests impaired
   relaxation. There is mild pulmonary artery systolic hypertension. There
   is an anterior space which most likely represents a fat pad.
   IMPRESSION: hyperdynamic left ventricle with significant diastolic
   dysfunction; mild aortic stenosis
   Microbiology: Rapid Viral Panel (-), Mini-BAL, Polys only, no organism
   Assessment and Plan
   A+P 81 F w/ pmh of dermatomyositis (on steroids), HTN, AS (unknown
   valve area), presents w/ hypoxia, hypercarbic
   # Respiratory failure: Extubated and stable on 4L
   - Attempt to wean today
   # Dermatomyositis:
   -          Aldolase pending
   -          Rheumatology recommends continuing steroids for now.
   Appeciate recommendations
   -          Will also get neuro musculoskeletal consult to evaluate for
   causes of weakness.
   -          [**Hospital1 1031**] records in chart.
   -          PCP records pending
   # Diastolic CHF: Likely dry, gentle hydration titrated to UOP.
   -continue lisinopril, metoprolol
   -Will check ECHO
   .
   # HTN:  Increase to home dose of metoprolol today (25 [**Hospital1 7**]).
   - Amlodipine 5mg
   - Lisinopril 10mg
   - Metoprolol 25mg
   # Aortic stenosis: Aortic Valve area 1.2-1.9
   # Anemia: Normocytic. Unknown baseline.
   - trend for now
   # Hyperglycemia: per her daughter, no diagnosis of DM2.  Likely from
   steroids.
   -          [**Hospital1 **]
   -          HgbA1c 6.4%
   # Chronic pain: continue oxycontin, lidoderm patch, nortriptyline
   FEN: Clears, replete lytes prn
   Access: PIVs
   PPX: Pneumoboots, bowel regimen prn
   Code: DNR only
   Dispo: ICU, possible call out
   Communication: [**Name (NI) **] [**Name (NI) 4853**] (son) [**Telephone/Fax (1) 4855**]: Daughter [**Name (NI) **] (805)
   4542-0171; home ([**Telephone/Fax (1) 4856**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-12-1**] 04:00 PM
   22 Gauge - [**2111-12-2**] 04:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-05 05:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2111-12-4**] 01:00 PM
   [**2110-12-3**]
   - UCx, U/A sent
   - Metoprolol to 25mg [**Hospital1 7**]
   - Has rehab bed waiting
   - Refused SubQ heparin & venodynes
   Currently her only complaint is a tear in her mouth on the right side
   secondary to the ET tube.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-5**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.6
   HR: 99 (60 - 116) bpm
   BP: 199/102(115) {115/59(71) - 199/102(115)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.7 kg (admission): 59.7 kg
                  Total In:
                                                                  1,032 mL
                                                                    120 mL
   PO:
                                                                    700 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    450 mL
   Urine:
                                                                  1,570 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -538 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: Extubated, awake and comfortable appearing
   HEENT: PERRL
   Pulm: decreased breath sounds at bases bilaterally
   CV: distant heart sounds, rrr, no murmurs appreciated
   Abd soft, nt, nd, nabs, no HSM
   Extrem no edema, areas of skin removal for skin graft on R thigh, ttp
   over lower extremities globally, L hip externally rotated
   Neuro: Alert
   Labs / Radiology
   280 K/uL
   12.0 g/dL
   83 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   98 mEq/L
   146 mEq/L
   35.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2111-12-1**]  03:23 PM
                             [**2111-12-1**]  03:37 PM
                             [**2111-12-2**]  02:56 AM
                             [**2111-12-2**]  02:59 AM
                             [**2111-12-2**]  06:17 AM
                             [**2111-12-3**]  02:46 AM
                             [**2111-12-3**]  04:25 AM
                             [**2111-12-3**]  05:04 PM
                             [**2111-12-3**]  08:34 PM
                             [**2111-12-3**]  11:23 PM
   WBC
   7.3
   6.3
   5.8
   6.4
   Hct
   30.0
   29.0
   30.3
   35.6
   Plt
   [**Telephone/Fax (3) 4914**]80
   Cr
   0.3
   0.5
   0.5
   0.4
   0.4
   TCO2
   42
   42
   41
   38
   40
   Glucose
   155
   103
   88
   102
   83
   Other labs: PT / PTT / INR:13.5/30.0/1.2, CK / CKMB / Troponin-T:53//,
   Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A+P 81 F w/ pmh of dermatomyositis (on steroids), HTN, AS (unknown
   valve area), presents w/ hypoxia, hypercarbic
   # Respiratory failure: Extubated and stable on 4L
   -          Attempt to wean today
   -          Would consider BiPAP at night given atelectasis and elevated
   hemidiaphragm
   # UTI:  Pt symptomatic, UA positive
   -          Starting Cipro 500mg Q12h for 7 days
   # Dermatomyositis:
   -          Aldolase within normal limits
   -          Rheumatology recommends continuing steroids for now.
   Appeciate recommendations
   -          Neuro musculoskeletal consult agrees
   -          [**Hospital1 1031**] records in chart.
   # Diastolic CHF: Likely dry, gentle hydration titrated to UOP.
   -continue lisinopril, metoprolol
   -Will check ECHO
   .
   # HTN:  Increase to home dose of metoprolol today (25 [**Hospital1 7**]).
   - Amlodipine 5mg
   - Lisinopril 10mg
   - Metoprolol 25mg
   # Aortic stenosis: Aortic Valve area 1.2-1.9
   # Anemia: Normocytic. Unknown baseline.
   - trend for now
   # Hyperglycemia: per her daughter, no diagnosis of DM2.  Likely from
   steroids.
   -          [**Hospital1 **]
   -          HgbA1c 6.4%
   # Chronic pain: continue oxycontin, lidoderm patch, nortriptyline
   FEN: Clears, replete lytes prn
   Access: PIVs
   PPX: Pneumoboots, bowel regimen prn
   Code: DNR only
   Dispo: transfer to the floor today
   Communication: [**Name (NI) **] [**Name (NI) 4853**] (son) [**Telephone/Fax (1) 4855**]: Daughter [**Name (NI) **] (805)
   4542-0171; home ([**Telephone/Fax (1) 4856**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2111-12-2**] 04:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-05 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2111-12-4**] 01:00 PM
   Patient extubated without event
   UTI suspected based on U/A
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2111-12-5**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 74 (60 - 116) bpm
   BP: 137/72(89) {115/64(71) - 199/102(115)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.7 kg (admission): 59.7 kg
                  Total In:
                                                                  1,032 mL
                                                                    120 mL
   PO:
                                                                    700 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    710 mL
   Urine:
                                                                  1,570 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -538 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: Right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Diffuse Weakness
   Noted
   Labs / Radiology
   12.0 g/dL
   280 K/uL
   83 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   98 mEq/L
   146 mEq/L
   35.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2111-12-1**]  03:23 PM
                             [**2111-12-1**]  03:37 PM
                             [**2111-12-2**]  02:56 AM
                             [**2111-12-2**]  02:59 AM
                             [**2111-12-2**]  06:17 AM
                             [**2111-12-3**]  02:46 AM
                             [**2111-12-3**]  04:25 AM
                             [**2111-12-3**]  05:04 PM
                             [**2111-12-3**]  08:34 PM
                             [**2111-12-3**]  11:23 PM
   WBC
   7.3
   6.3
   5.8
   6.4
   Hct
   30.0
   29.0
   30.3
   35.6
   Plt
   [**Telephone/Fax (3) 4914**]80
   Cr
   0.3
   0.5
   0.5
   0.4
   0.4
   TCO2
   42
   42
   41
   38
   40
   Glucose
   155
   103
   88
   102
   83
   Other labs: PT / PTT / INR:13.5/30.0/1.2, CK / CKMB / Troponin-T:53//,
   Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR--Very low lung volmes in right chest, modest decrese in
   left sided lung volumes, prominent bowel gas.
   Assessment and Plan
   82 yo female with a history of dermatomyositis and admission for
   respiratory failure and likely trigger of respiratory infection in the
   setting of poor reserves triggering events considered most likely.  She
   has had successful extubation following and relatively minimal period
   of ventilatory support.
   1)Respiratory Failure
Extubated, comfortable, restrictive ventilatory
   defect is at issue and will be persistent challenge
   -AM ABG if patient agrees
   -[**Hospital1 **]-level support overnight may provide good support of ventilation
   chronically
   -Trial [**6-28**] tonight via respiratory therapy
   -OOB
Chair
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2111-12-2**] 04:09 AM
   Prophylaxis:
   DVT: (Refused both
boots and SQ Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes